US09303028B2
In a 500 mL round bottom flask, the uniform mixture of 2-amino-4-chlorobenzaldehyde (16 g, 103.2 2 mmol) and urea (123.8 g, 2063 mmol) was heated at 170° C. with vigorous stirring for 2 h. On completion of reaction, the reaction mixture was cooled to rt and diluted with ice-cold water. The solid that formed was collected by filtration and washed with ice-cold water. The solid was dried under reduced pressure to give crude 7-chloroquinazolin-2-ol as a yellow solid. Yield: 19 g. LCMS (ESI, m/z): 181 (M+1)+

reactant | 2-amino-4-chlorobenzaldehyde | 2 mmol, 16 g | NC1=C(C=O)C=CC(=C1)Cl | C7H6ClNO
reactant | urea | 2063 mmol, 123.8 g | NC(=O)N | CH4N2O
product | 7-chloroquinazolin-2-ol | ClC1=CC=C2C=NC(=NC2=C1)O | C8H5ClN2O
